US07919628B2
8 mg 2-{[1-(phenylethynyl)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester were dissolved in 3 ml of MeOH and 1 ml of water was added. After addition of 1.95 mg of LiOH.H2O the reaction was stirred at room temperature for 14 h. Filtration of the crude mixture, RP-HPLC and freeze-drying gave 6.8 mg of 2-{[1-(phenylethynyl)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid (89%).

reactant | 2-{[1-(phenylethynyl)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | 8 mg | COC(C(C)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)C#CC1=CC=CC=C1)=O | C24H21NO3
reactant | water | 1 ml | O | H2O
reactant | LiOH.H2O | 1.95 mg | O[Li].O
solvent | MeOH | 3 ml | CO | CH4O
product | 2-{[1-(phenylethynyl)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid | 6.8 mg, 89% | C1(=CC=CC=C1)C#CC1=C(C=CC2=CC=CC=C12)C(=O)NC(C(=O)O)(C)C | C23H19NO3
